US05100895
2,3-Dihydro-5-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)diimidazo[1,5-a:1',2'-c]quinazoline
Trifluoroacetic anhydride (TFAA, 2 g) was added to a stirred suspension of 2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline-5-carboxamide oxime (2.5 g, 9 mmol). With 3 h intervals, two additional 1 g portions of TFAA was added, and stirring was continued overnight. The solvent was removed in vacuo and the residue was purified on a silica column using ethyl acetate as eluent. The title compound was obtained as pale crystals, m.p. 220°-224° C. (Compound 48).

reactant | Trifluoroacetic anhydride | 2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline-5-carboxamide oxime | 9 mmol, 2.5 g | N=1CCN2C=3N(C=4C=CC=CC4C21)C=NC3C(N)=NO | C13H12N6O
product | 2,3-Dihydro-5-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)diimidazo[1,5-a:1',2'-c]quinazoline | FC(C1=NC(=NO1)C=1N=CN2C1N1C(C=3C=CC=CC23)=NCC1)(F)F | C15H9F3N6O
